US04201780
A stirred solution of 15.5 grams (0.05 mole) of 3-[4-(2-carboxyethenyl)phenoxy]-5-chloro-4H-1,2,6-thiadiazin-4-one in 150 ml of thionyl chloride was heated under reflux for 16 hours, then allowed to cool to ambient temperature. The excess thionyl chloride was removed under reduced pressure to give a residual solid. The solid was dissolved in 300 ml of methylene chloride. To the resulting solution was carefully added 6.1 grams (0.06 mole) of triethylamine; then, dropwise, 4.6 grams (0.1 mole) of absolute ethanol. The reaction mixture was stirred at ambient temperature for 2.5 hours, then diluted with 150 ml of water. The organic layer was separated and washed with 200 ml of water, then 150 ml of an aqueous solution saturated with sodium chloride. The organic layer was dried with magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to a solid residue. The solid was recrystallized twice with ethanol to give 8.7 grams (51%) of 3 -chloro-5-[4-(2-ethoxycarbonylethenyl)phenoxy]-4H-1,2,6-thiadiazin-4-one; mp 126°-127.5° C.

reactant | 3-[4-(2-carboxyethenyl)phenoxy]-5-chloro-4H-1,2,6-thiadiazin-4-one | 0.05 mole, 15.5 grams | C(=O)(O)C=CC1=CC=C(OC2=NSN=C(C2=O)Cl)C=C1 | C12H7ClN2O4S
reactant | triethylamine | 0.06 mole, 6.1 grams | C(C)N(CC)CC | C6H15N
reactant | ethanol | 0.1 mole, 4.6 grams | C(C)O | C2H6O
solvent | thionyl chloride | 150 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | water | 150 ml | O | H2O
product | 3 -chloro-5-[4-(2-ethoxycarbonylethenyl)phenoxy]-4H-1,2,6-thiadiazin-4-one | 8.7 grams, 51% | ClC1=NSN=C(C1=O)OC1=CC=C(C=C1)C=CC(=O)OCC | C14H11ClN2O4S
